US08609709B2
A solution of [1-{(3-cyano-benzyl)-[1-(4-phenyl-1H-imidazol-2-yl)-ethyl]-carbamoyl}-2-(4-hydroxy-2,6-dimethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester (0.070 g, 0.12 mmol) in 3 mL of EtOH was treated with 1.0 mL of 30% hydrogen peroxide followed immediately by 0.1 mL of a 6M aqueous solution of NaOH. The reaction mixture was stirred vigorously for 18 h and quenched by pouring into chilled (5-10° C.) water. The aqueous solution was extracted five times with Et2O and the combined extracts were dried over MgSO4, filtered, and concentrated to provide 0.051 g of [1-{(3-carbamoyl-benzyl)-[1-(4-phenyl-1H-imidazol-2-yl)-ethyl]-carbamoyl}-2-(4-hydroxy-2,6-dimethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester as a colorless residue (HPLC: 84% @ 254 nm and 77% @ 214 nm). MS (ES+) (relative intensity): 612.5 (100) (M+1). This sample was of sufficient quality to use in the next reaction without further purification.

reactant | [1-{(3-cyano-benzyl)-[1-(4-phenyl-1H-imidazol-2-yl)-ethyl]-carbamoyl}-2-(4-hydroxy-2,6-dimethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 0.12 mmol, 0.070 g | C(C)(C)(C)OC(NC(CC1=C(C=C(C=C1C)O)C)C(N(C(C)C=1NC=C(N1)C1=CC=CC=C1)CC1=CC(=CC=C1)C#N)=O)=O | C35H39N5O4
reactant | hydrogen peroxide | 1.0 mL | OO | H2O2
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | [1-{(3-carbamoyl-benzyl)-[1-(4-phenyl-1H-imidazol-2-yl)-ethyl]-carbamoyl}-2-(4-hydroxy-2,6-dimethyl-phenyl)-ethyl]-carbamic acid tert-butyl ester | 0.051 g | C(C)(C)(C)OC(NC(CC1=C(C=C(C=C1C)O)C)C(N(C(C)C=1NC=C(N1)C1=CC=CC=C1)CC1=CC(=CC=C1)C(N)=O)=O)=O | C35H41N5O5
